US04622326
6-Ethyl-3-(3-tolyl)-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine
1-Ethyl-4-hydroxy-5-(3-methylbenzoyl)-1H-pyrazolo[3,4-b]pyridine (4.25 g) was refluxed overnight in 75 ml of pyridine containing 4.5 g of hydroxylamine hydrochloride. The pyridine was then removed under reduced pressure and the residue triturated with 5% hydrochloric acid. The product was then filtered off and recrystallized from methanol to give 2.63 g of analytically pure product, mp 122°-123° C.

reactant | 1-Ethyl-4-hydroxy-5-(3-methylbenzoyl)-1H-pyrazolo[3,4-b]pyridine | 4.25 g | C(C)N1N=CC=2C1=NC=C(C2O)C(C2=CC(=CC=C2)C)=O | C16H15N3O2
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | 75 ml, 4.5 g | N1=CC=CC=C1 | C5H5N
product | 6-Ethyl-3-(3-tolyl)-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine | C(C)N1N=CC=2C1=NC=C1C2ON=C1C=1C=C(C=CC1)C | C16H14N4O
